US07015218B1
N-[2-Cyano-4-(4-morpholinopiperidin-1-yl)phenyl]-5-methyl-1-(4-trifluoromethylphenyl)pyrazole-4-carboxamide 1 hydrate
By the reaction and treatment in the same manner as in Example 150 using 5-methyl-1-(4-trifluoromethylphenyl)pyrazole-4-carboxylic chloride (0.9 g) and 2-amino-5-(4-morpholinopiperidin-1-yl)benzonitrile (0.9 g), the title compound (0.67 g) was obtained, melting point: 210–212° C.

reactant | 5-methyl-1-(4-trifluoromethylphenyl)pyrazole-4-carboxylic chloride | 0.9 g | CC1=C(C=NN1C1=CC=C(C=C1)C(F)(F)F)C(=O)Cl | C12H8ClF3N2O
reactant | 2-amino-5-(4-morpholinopiperidin-1-yl)benzonitrile | 0.9 g | NC1=C(C#N)C=C(C=C1)N1CCC(CC1)N1CCOCC1 | C16H22N4O
product | N-[2-Cyano-4-(4-morpholinopiperidin-1-yl)phenyl]-5-methyl-1-(4-trifluoromethylphenyl)pyrazole-4-carboxamide | 0.67 g | C(#N)C1=C(C=CC(=C1)N1CCC(CC1)N1CCOCC1)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)C(F)(F)F | C28H29F3N6O2
